Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
"I am getting worse".
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ ___ student with PPHx 
significant
for depression and anxiety with dissociative symptoms, seen by
prescribing NP at ___, no therapist, no past 
psychiatric
hospitalizations, no SIB or SA, who was sent to the ___ ___ 
from
___'s office with suicidal thoughts of jumping in front of a 
train
in context of worsening anxiety and dissociation.

Patient reports that she has struggled with the above 
psychiatric
conditions on and off since age ___. However, since the start of
the semester in ___ of this year, her anxiety and
dissociation have been noticeably worse. No other recent
stressors that patient can recall. She saw an NP at ___
who started patient on Zoloft 25mg, which she took for a month
without noticeable effect. Last week, patient returned and her
dose was increased to 75mg daily. After a few days at this dose,
patient began to feel much worse, with frequent panic attacks 
and
suicidal thoughts of jumping in front of a train or traffic. She
returned to the ___'s office today and was sent to the ___.

Patient states her suicidal thoughts have been occurring 
randomly
___ times per day. Expresses feeling "hopeless" about getting
better and in fact thinks she is getting worse. She reports
having "similar" suicidal thoughts a few years ago but does not
recall the details. She denies any distant or recent past SA or
SIB. She states she feels safe here and is not actively trying 
to
hurt herself.

Dissociative symptoms: Patient describes depersonalization,
derealization, impaired concentration/memory (loses train of
thought several times in this interview), and disorientation
(forgets where she is going or what she is doing). Patient
reports a history of trauma (emotional abuse from mother; also
saw someone get shot several years ago) but denies nightmares,
flashbacks.

Panic attacks: palpitations, sweating, feeling warm and like she
is vibrating. Normally has panic attacks 1x per week, but had
three today prior to presentation.

Depressed mood: Patient feels her depressed mood is less
prominent than her anxiety. However, she endorses hopelessness,
guilt ("I'm not supposed to be feeling like this"), insomnia
(lying awake for hours with racing thoughts and waking at 4 am),
decreased appetite, and impaired concentration/memory as above.

Patient denies manic symptoms. Reports VH which occurred while
driving on several occasions ___ years ago of a "screaming man";
no recent VH. No AH. No HI. Denies substance use.

On examination upon arrival on ___ the patient described
several years of worsening depression.  Over 1 month ago however
her boyfriend of ___ years broke up with her.  Even though she
understands that this might be better in the long run as he
apparently was lying to her, she is sad and misses him
particularly during the holidays.  She also talked about a very
complicated relationship with her mother.  Her mother was quite
erratic in her behavior with her children.  The patient also 
says
that her mother suffered a postpartum depression when she was
born.  The patient is not feeling suicidal here on the unit.  
She
does describe mood swings that are not related to any
interpersonal events.  She says that she can be down for weeks
and then be up with a tremendous amount of energy, not sleeping. 

She also describes severe premenstrual dysphoric disorder. Is 
willing to sign a voluntary admission but is hoping to leave as 
soon as possible.

 
Past Medical History:
Reports "mildly hyperactive thyroid," has not been checked
recently but TSH in ___ today was normal at 3.3
- Head trauma: None
- Seizures: None

 
Social History:
___
Family History:
- Believes mother may be "bipolar," otherwise does not know of
any family history of mental illness or suicide.
 
Physical Exam:
- GENERAL: awake, cooperative
- HEENT: normocephalic, atraumatic, moist mucous membranes, no
scleral icterus
- Cardiovascular: regular rate, well perfused
- Pulmonary: breathing comfortably on room air, no increased 
work
of breathing
- Abdominal: soft, non-distended, no guarding, nontender
- Extremities: no cyanosis, clubbing, or edema bilaterally
- Skin: no rashes or lesions noted

NEUROLOGICAL  
 - Station and Gait: normal; patient evaluated in ___ bed
 - Strength: normal bulk; ___ to proximal and distal upper and
lower extremities
 - Abnormal Movements: no tics, tremors, evidence of EPS
 - Cranial Nerves: EOMI, nasolabial folds symmetric, palate
elevates symmetrically, tongue protrudes midline

No spasticity or rigidity
Finger to nose intact bilaterally

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: MOYB 
- Oriented to person, time, place (Inpatient Psychiatry).
- Executive function: intact
- Memory: ___ registration; ___ spontaneous recall after 5 min;
long-term grossly intact.
- Fund of knowledge: intact to last 3 presidents
- Calculations: $2.75 = 11 quarters
- Abstraction: Intact
- Visuospatial: Deferred
- Language: fluent ___ speaker, also speaks ___ and 
___

 
Pertinent Results:
___ 09:48PM BLOOD WBC-7.0 RBC-4.30 Hgb-12.0 Hct-37.0 MCV-86 
MCH-27.9 MCHC-32.4 RDW-12.8 RDWSD-40.1 Plt ___
___ 09:48PM BLOOD Neuts-56.0 ___ Monos-5.8 Eos-1.6 
Baso-0.9 Im ___ AbsLymp-2.49 AbsMono-0.41 
AbsEos-0.11 AbsBaso-0.06
___ 09:48PM BLOOD Plt ___
___ 09:48PM BLOOD Glucose-89 UreaN-7 Creat-0.6 Na-140 K-3.9 
Cl-105 HCO3-22 AnGap-13
___ 09:48PM BLOOD estGFR-Using this
___ 09:48PM BLOOD TSH-3.3
___ 09:48PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
This was a brief admission for ___.  After being off 
the sertraline for 2 days she was feeling calmer, had no 
intrusive suicidal thoughts, slept well with the use of low-dose 
hydroxyzine.  She participated in some of the groups, found them 
to be minimally helpful.  This is in part due to the fact that 
the unit has been very acute, making some of our higher 
functioning patients a little uncomfortable.  We had 3 meetings 
during which we addressed her mood disorder.  It does sound like 
she gets depressed for weeks at a time sometimes followed 
sometimes preceded by what appears to be hypomanic episodes.  
She is interested in eventually starting a mood stabilizer, we 
discussed lamotrigine as a good option.  We also talked about 
her experience of depersonalization.  She traces this back to 
the traumatic relationship she had with her mother, especially 
during her teenage years.  It seems like this might have started 
much earlier as her mother suffered from a significant 
postpartum depression after ___ was born.

MENTAL STATUS ON DISCHARGE:
- Appearance: Appears older than stated age, thin, adequate
grooming
- Behavior: calm, good eye contact
- Attitude: cooperative, engaged, friendly
- Mood: "Better"
- Affect: Still somewhat sad but mood-congruent 
- Speech: normal rate, normal volume and prosody
- Thought process: linear, no loosening of associations
- Thought Content: Denies any suicidal thoughts, has no intent, 
no plan. No HI. No evidence of paranoia. Denies AVH, not 
appearing to be attending to internal stimuli.
- Insight/Judgment: Improved

SUICIDE RISK ASSESSMENT:
Risk factors: Mood disorder, history of trauma, attachment 
disorder.  Recent psychiatric admission.  Family history of mood 
disorder
Protective factors: Denies any suicidal thoughts, does not want 
to die.  Has friends, is future oriented, excited about her 
studies.  No substance use, no psychosis.
Suicide inquiry: The patient does not report any suicidal 
ideation, no plan, no previous behavior, no intent
Risk level: Low
 

 COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 21:48    7.0 4.30 12.0 37.0 86 27.9 32.4 12.8 40.1 
247 
 DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas Im 
___ AbsLymp AbsMono AbsEos AbsBaso 
___ 21:48    56.0   35.4 5.8 1.6 0.9     0.31 3.95 2.49 
0.41 0.11 0.06 

1.Includes Metas, Myelos, and Pros.
 
 BASIC COAGULATION ___, PTT, PLT, INR) Plt Ct 
___ 21:48    247 
 

Chemistry 
 RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 21:48    ___ 140 3.9 ___ 

1.If fasting, 70-100 normal, >125 provisional diabetes
 
 ESTIMATED GFR (MDRD CALCULATION) estGFR 
___ 21:48    Using this1 

1.Using this patient's age, gender, and serum creatinine value 
of 0.6, 
estimated GFR (eGFR) is likely >75 mL/min/1.73 m2, 
provided the serum creatinine value is stable. 
(Patients with more muscle mass and better nutritional status 
are more 
likely to be at the higher end of this range.) 
An eGFR < 60 suggests kidney disease in those below the age of 
___ 
and there may be kidney disease in those over ___.
 
 PITUITARY TSH 
___ 21:48    3.3 
 TOXICOLOGY, SERUM AND OTHER DRUGS ASA Ethanol Acetmnp Tricycl 
___ 21:48    NEG NEG1 NEG NEG2 

1.NEG
80 (these units) = 0.08 (% by weight)
2.NEG

Urine 

Hematology 
 GENERAL URINE INFORMATION Type Color ___ 
___ 21:22      Colorless CLEAR 1.007 
 DIPSTICK URINALYSIS Blood Nitrite Protein Glucose Ketone 
Bilirub Urobiln pH Leuks 
___ 21:22    MOD* NEG NEG NEG NEG NEG NORMAL 6.5 NEG 
 MICROSCOPIC URINE EXAMINATION RBC WBC Bacteri Yeast Epi TransE 
RenalEp 
___ 21:22    3* 1 FEW* NONE 3     
 URINE CRYSTALS AmorphX 
___ 21:22    RARE* 
 

Chemistry 
 URINE CHEMISTRY Hours 
___ 21:22    RANDOM 

OTHER URINE CHEMISTRY UCG 
___:22    NEGATIVE1 

 
URINE TOXICOLOGY IMMUNOASSAY SCREEN, PRESUMPTIVE RESULTS bnzodzp 
barbitr opiates cocaine amphetm oxycodn mthdone fentnyl 
___ 21:22    NEG1 NEG NEG2 NEG NEG NEG NEG3 NEG4 
 

PLAN:
Bipolar 2 illness:
--- We recommended starting lamotrigine for mood stabilization.  
The patient preferred to wait until she sees her prescriber ___ 
___, NP after the holidays.

Depersonalization disorder:
--- This is possibly in the context of attachment problems.  The 
patient has an intake for psychotherapy on ___
 
Medications on Admission:
Sertraline 75 mg daily, discontinued
 
Discharge Medications:
1.  HydrOXYzine 25 mg PO Q6H:PRN Anxiety or insomnia 
RX *hydroxyzine HCl 10 mg one tab by mouth TID PRN Disp #*30 
Tablet Refills:*0 

Recommend lamotrigine for treatment of bipolar II illness - the 
patient was not interested to start anything while in the 
hospital but has the information if she changes her mind in the 
future
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar II Illness
Dipersonalization Disorder
 
Discharge Condition:
Mental status: Clear and coherent
Level of consciousness: Alert and interactive
Activity status: Ambulatory/independent

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___